US04021221
Preparation of 3,4-dichloro-1,1-dimethyl-phospholanium chloride
44.3 g (0.2 mole) of 1,1-dimethyl-3-phospholenium chloride were suspended in 250 ml of chloroform and reacted with 14.2 g (0.2 mole) of chlorine at 20° C. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. This gave 3,4-dichloro-1,1-dimethyl-phospholanium chloride in the form of colourless crystals of melting point 90°-100° C. (decomp.).

reactant | 1,1-dimethyl-3-phospholenium chloride | 0.2 mole, 44.3 g | [Cl-].C[P+]1(CC=CC1)C
reactant | chlorine | 0.2 mole, 14.2 g | ClCl | Cl2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-dichloro-1,1-dimethyl-phospholanium chloride | [Cl-].ClC1C[P+](CC1Cl)(C)C | InChI=1S/C6H12Cl2P.ClH/c1-9(2)3-5(7)6(8)4-9;/h5-6H,3-4H2,1-2H3;1H/q+1;/p-1
